US04466981
To a solution of sodium-n-butoxide (25.8 g) in dry dimethylformamide (125 ml) was added 2,3,6-trichloro-1,4-naphthoquinone (28 g) in one amount. The mixture was refluxed for 2 hours, then cooled, acidified with 6M hydrochloric acid and evaporated. The residue was chromatographed over silica gel using dichloromethane as eluant to yield 2,3-di-n-butyloxy-6-chloro-1,4-naphthoquinone (12.3 g) as a red oily solid.

reactant | 2,3,6-trichloro-1,4-naphthoquinone | 28 g | ClC=1C(C2=CC=C(C=C2C(C1Cl)=O)Cl)=O | C10H3Cl3O2
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 2,3-di-n-butyloxy-6-chloro-1,4-naphthoquinone | 12.3 g | C(CCC)OC=1C(C2=CC=C(C=C2C(C1OCCCC)=O)Cl)=O | C18H21ClO4
